US04198423
At about 0° C., 37.2 g (0.2 mole) of trichloromethylsulfenyl chloride and subsequently 20.2 g (0.2 mole) of triethylamine are dripped, while stirring thoroughly, into a suspension of 10 g (0.1 mole) of hydantoin in 150 ml of anhydrous ethyl acetate. After stirring for 90 minutes at room temperature, the precipitated triethylamine hydrochloride is filtered off and washed with 100 ml of ethyl acetate. The filtrate is concentrated and the residue is crystallized by trituration with n-pentane. There is obtained 36.1 g (90.5% of theory) of 1,3-bis-(trichloromethylthio)-hydantoin; m.p.: 142° C.

reactant | trichloromethylsulfenyl chloride | 0.2 mole, 37.2 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | triethylamine | 0.2 mole, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | hydantoin | 0.1 mole, 10 g | N1C(=O)NC(=O)C1 | C3H4N2O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1,3-bis-(trichloromethylthio)-hydantoin | 36.1 g, 90.5% | ClC(SN1C(=O)N(C(=O)C1)SC(Cl)(Cl)Cl)(Cl)Cl | C5H2Cl6N2O2S2
